US07262185B2
To 2-hydroxymethyl-1-propylimidazole (8.0 g) was added thionyl chloride (50 ml) at 0° C., and the mixture was heated for 30 minutes under nitrogen atmosphere at 90° C. The mixture was allowed to be at room temperature. The solvent was distilled off under reduced pressure, and the obtained residue was recrystallized from methanol-ethyl acetate, to give 2-chloromethyl-1-propylimidazole hydrochloride (4.3 g) as yellow crystals.

reactant | 2-hydroxymethyl-1-propylimidazole | 8.0 g | OCC=1N(C=CN1)CCC | C7H12N2O
reactant | thionyl chloride | 50 ml | S(=O)(Cl)Cl | Cl2OS
product | 2-chloromethyl-1-propylimidazole hydrochloride | 4.3 g | Cl.ClCC=1N(C=CN1)CCC | InChI=1S/C7H11ClN2.ClH/c1-2-4-10-5-3-9-7(10)6-8;/h3,5H,2,4,6H2,1H3;1H
